US05763489
To a solution of diethylcarbonate (10.3 ml) and sodium hydride (4.2 g, 60% in oil) in toluene (300 ml) was added 5-t-butyldiphenylsilyloxy-1-oxo-1,2,3,4-tetrahydronaphthalene (17 g) at 100° C. The mixture was stirred for 4 hours at the same temperature and then the cooled solution was washed with sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give 5-t-butyldiphenylsilyloxy-2-ethoxycarbonyl-1-oxo-1,2,3,4-tetrahydronaphthalene (20 g).

reactant | diethylcarbonate | 10.3 ml | C(C)OC(OCC)=O | C5H10O3
reactant | sodium hydride | 4.2 g | [H-].[Na+]
reactant | 5-t-butyldiphenylsilyloxy-1-oxo-1,2,3,4-tetrahydronaphthalene | 17 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCCC(C2=CC=C1)=O | C26H28O2Si
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-t-butyldiphenylsilyloxy-2-ethoxycarbonyl-1-oxo-1,2,3,4-tetrahydronaphthalene | 20 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCC(C(C2=CC=C1)=O)C(=O)OCC | C29H32O4Si
